US08034949B2
To a solution of (3S,4R)-1-[bis-(4-chlorophenyl)methyl]-3-hydroxy-4-[[4-(trifluoromethoxy)benzoyl]amino]pyrrolidine (75.6 mg, an optical isomer of the compound obtained in Example 2) in acetonitrile (8 mL)/dimethylformamide (2 mL) was added successively methyl iodide (233 μL) and silver oxide (216.8 mg) and the mixture was stirred at room temperature for 23 hours. The reaction mixture was filtered through Cerite, washed with acetonitrile and evaporated in vacuo. The crude product was purified by a column chromatography on silica gel (solvent; hexane/ethyl acetate=4:1→2:1) to give (3S,4R)-1-[bis-(4-chlorophenyl)methyl]-3-methoxy-4-[[4-(trifluoro-methoxy)benzoyl]amino]pyrrolidine (39.5 mg; yield: 51%) as an amorphous powder.

reactant | (3S,4R)-1-[bis-(4-chlorophenyl)methyl]-3-hydroxy-4-[[4-(trifluoromethoxy)benzoyl]amino]pyrrolidine | ClC1=CC=C(C=C1)C(N1C[C@@H]([C@@H](C1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)O)C1=CC=C(C=C1)Cl | C25H21Cl2F3N2O3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 233 μL | CI | CH3I
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
catalyst | silver oxide | 216.8 mg | [Ag]=O
product | (3S,4R)-1-[bis-(4-chlorophenyl)methyl]-3-methoxy-4-[[4-(trifluoro-methoxy)benzoyl]amino]pyrrolidine | 39.5 mg, yield: 51% | ClC1=CC=C(C=C1)C(N1C[C@@H]([C@@H](C1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)OC)C1=CC=C(C=C1)Cl | C26H23Cl2F3N2O3
